US09216173B2
To a solution of 5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide (1.65 g, 5.14 mmol) in toluene (20 ml) was added bis(4-methoxyphenyl)methanol (1.32 g, 5.39 mmol) and p-toluenesulfonic acid monohydrate (0.098 g, 0.51 mmol). The reaction mixture was heated to reflux with a Dean-Stark apparatus attached. After 2 hours, the reaction mixture was cooled to ambient temperature and diluted with ethyl acetate (600 mL). This mixture was washed with saturated aqueous sodium bicarbonate (2×100 mL) and brine (50 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel (0-60% ethyl acetate/hexanes). The isolated product was dissolved in 25 mL hot ethyl acetate (˜50° C.). The mixture was allowed to cool to ambient temperature, and then it was diluted dropwise with hexanes (100 mL). After 4 hours, the mixture was filtered, and the collected solids were dried under reduced pressure to afford N-[bis(4-methoxyphenyl)methyl]-5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide. MS ESI calc'd. For C28H28BrN4O3 [M+H]+ 547 and 549. found 547 and 549. 1H NMR (500 MHz, DMSO-d6) δ 11.47 (s, 1H), 9.68 (d, J=2.0 Hz, 1H), 9.26 (d, J=8.5 Hz, 1H), 8.18 (d, J=2.0 Hz, 1H), 7.27 (d, J=8.5 Hz, 4H), 6.88 (d, J=8.5 Hz, 4H), 6.66 (s, 1H), 6.55 (s, 1H), 6.19 (d, J=9.0 Hz, 1H), 3.71 (s, 6H), 2.36 (s, 3H), 2.19 (s, 3H).

reactant | 5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide | 5.14 mmol, 1.65 g | BrC=1C=C(C(=NC1)C(=O)N)NC1=NC(=CC(=C1)C)C | C13H13BrN4O
reactant | bis(4-methoxyphenyl)methanol | 5.39 mmol, 1.32 g | COC1=CC=C(C=C1)C(O)C1=CC=C(C=C1)OC | C15H16O3
reactant | p-toluenesulfonic acid monohydrate | 0.51 mmol, 0.098 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
product | N-[bis(4-methoxyphenyl)methyl]-5-bromo-3-[(4,6-dimethylpyridin-2-yl)amino]pyridine-2-carboxamide | COC1=CC=C(C=C1)C(NC(=O)C1=NC=C(C=C1NC1=NC(=CC(=C1)C)C)Br)C1=CC=C(C=C1)OC | C28H27BrN4O3
